US08426587B2
Preparation of (E)-tert-butyl 4-(4-(cyclohexylcarbamoyl)phenoxy)-3-fluoro-2-methylbut-2-enylcarbamate
This compound was synthesized from tert-butyl [(2E)-4-bromo-3-fluoro-2-methylbut-2-en-1-yl]carbamate and N-cyclohexyl-4-hydroxybenzamide following procedure F and was obtained as a colorless solid; 1H-NMR (400 MHz, CDCl3): δppm: 1.15-1.27 (3H, m), 1.37-1.48 (2H, m), 1.43 (9H, s), 1.62-1.67 (1H, m), 1.72-1.77 (2H, m), 1.76 (3H, d, J 4.0 Hz), 2.00-2.04 (2H, m), 3.77 (2H, d, J 5.7 Hz), 3.95 (1H, m), 4.61 (1H, br s), 4.75 (2H, d, J 21.4 Hz), 5.85 (1H, br s), 6.95 (2H, d, J 9.0 Hz), 7.72 (2H, d, J 9.0 Hz).

reactant | tert-butyl [(2E)-4-bromo-3-fluoro-2-methylbut-2-en-1-yl]carbamate | BrC\C(=C(/CNC(OC(C)(C)C)=O)\C)\F | C10H17BrFNO2
reactant | N-cyclohexyl-4-hydroxybenzamide | C1(CCCCC1)NC(C1=CC=C(C=C1)O)=O | C13H17NO2
product | (E)-tert-butyl 4-(4-(cyclohexylcarbamoyl)phenoxy)-3-fluoro-2-methylbut-2-enylcarbamate | C1(CCCCC1)NC(=O)C1=CC=C(OC\C(=C(/CNC(OC(C)(C)C)=O)\C)\F)C=C1 | C23H33FN2O4
